US05912244
6-(4-Methoxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran (7.816 g) (see Preparation 5) was dissolved in dry 2,4,6-collidine (30 ml), anhydrous lithium iodide (10.04 g) was added and the mixture was heated under reflux under.a nitrogen atmosphere for 48 hours. A further portion of lithium iodide (9.06. g) was then added and heating was continued for another 72 hours. After cooling, the mixture was taken up in dichloromethane and washed with 2N aqueous hydrochloric acid solution (×3). The organic layer was separated, dried (anhydrous sodium sulphate), the solvent removed under reduced pressure and the residue was chromatographed on silica using dichloromethane as the eluent to yield 6-(4-hydroxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran (5.799 g) as an oil.

reactant | 6-(4-Methoxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran | 7.816 g | COC1=CC=C(C=C1)SC1=CC2=C(OC(C(=C2)C)(C)C)C=C1 | C19H20O2S
reactant | lithium iodide | 10.04 g | [I-].[Li+]
solvent | 2,4,6-collidine | 30 ml | N1=C(C=C(C=C1C)C)C | C8H11N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-(4-hydroxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran | 5.799 g | OC1=CC=C(C=C1)SC1=CC2=C(OC(C(=C2)C)(C)C)C=C1 | C18H18O2S
